US05808065
276 mg of triethylamine was added to a dichloromethane suspension (4 ml) containing 100 mg of 6-[4-(3-aminopropoxy)phenyl]pyridazin-3(2H)-one hydrobromide and 37 mg of dimethylaniline, and the mixture was stirred at room temperature for 30 minutes. Under ice cooling, 86 mg of trimethylchlorosilane was added thereto, and the mixture was stirred at room temperature for 2 hours. Again, under ice cooling, a dichloromethane solution (1 ml) containing 65 mg of chloroethylsulfonyl chloride was added dropwise to the mixture, and the resulting mixture was stirred at room temperature for 30 minutes. 5 ml of 1M hydrochloric acid was added to the mixture, and the organic layer was collected by separation. After the organic layer was washed with water and dried, the solvent was removed. The residue was purified by silica gel column chromatography (eluent: chloroform-methanol (30:1)) to obtain 73 mg of 6-[4-(3-vinylsulfonylaminopropoxy)phenyl]pyridazin-3(2H)-one.

reactant | 6-[4-(3-aminopropoxy)phenyl]pyridazin-3(2H)-one hydrobromide | 100 mg | Br.NCCCOC1=CC=C(C=C1)C=1C=CC(NN1)=O
reactant | dimethylaniline | 37 mg | CN(C1=CC=CC=C1)C | C8H11N
reactant | trimethylchlorosilane | 86 mg | C[Si](Cl)(C)C | C3H9ClSi
reactant | chloroethylsulfonyl chloride | 65 mg | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | hydrochloric acid | 1M, 5 ml | Cl | ClH
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | triethylamine | 276 mg | C(C)N(CC)CC | C6H15N
product | 6-[4-(3-vinylsulfonylaminopropoxy)phenyl]pyridazin-3(2H)-one | 73 mg | C(=C)S(=O)(=O)NCCCOC1=CC=C(C=C1)C=1C=CC(NN1)=O | C15H17N3O4S
